US07273877B2
4-(4-Ethynyl-2-fluoroanilino)-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide was hydrogenated in MeOH/THF in the presence of 5% Pd/C as for example 3. Purification of the crude oil was carried out by column chromatography on silica gel (10% MeOH/CH2Cl2 as eluant) to give 4-(4-ethyl-2-fluoroanilino)-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white solid (91%), m.p. (EtOAc) 231-233° C. 1H NMR [(CD3)2SO, 400 MHz] δ 11.28 (br s, 1H), 10.02 (s, 1H), 8.41 (t, J=5.1 Hz, 1H), 7.90 (s, 1H), 7.32 (t, J=8.3 Hz, 1H), 7.19 (dd, J=11.9, 1.8 Hz, 1H), 7.08 (d, J=8.2 Hz, 1H), 5.33 (s, 1H), 4.44 (t, J=5.1 Hz, 1H), 3.46 (q, J=5.2 Hz, 2H), 3.30-3.22 (m, 2H), 2.62 (q, J=7.6 Hz, 2H), 1.66 (pentet, J=6.7 Hz, 2H), 1.21 (t, J=7.6 Hz, 3H). Anal. Calcd for C17H20FN3O3: C, 61.1; H, 6.1; N, 12.6. Found: C, 61.3; H, 5.9; N, 12.7.

reactant | 4-(4-Ethynyl-2-fluoroanilino)-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | C(#C)C1=CC(=C(NC=2C(=CNC(C2)=O)C(=O)NCCCO)C=C1)F | C17H16FN3O3
solvent | MeOH THF | CO.C1CCOC1
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-ethyl-2-fluoroanilino)-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 91% | C(C)C1=CC(=C(NC=2C(=CNC(C2)=O)C(=O)NCCCO)C=C1)F | C17H20FN3O3
